US07109219B2
1-(2-Dimethylaminoacetyl)piperazine
Benzyl 4-(2-dimethyaminoacetyl)piperazine-1-carbamate (954 mg, 3.12 mmol) synthesized in Production example 51-1 was dissolved in methanol (50 ml) under nitrogen atmosphere; 10% palladium on carbon (50% wet, 665 mg) was added thereto; the reaction system was purged with hydrogen at atmospheric pressure; and the reaction mixture was stirred overnight. After the reaction system was purged with nitrogen, the catalyst was filtered out, and washed with methanol. The solvent, together with the filtrate and washing solution, was distilled off, and the residue was dried under reduced pressure to yield the title compound (508 mg, 2.97 mmol, 95.0%) as a colorless oil.

reactant | Benzyl 4-(2-dimethyaminoacetyl)piperazine-1-carbamate | 3.12 mmol, 954 mg | CN(CC(=O)N1CCN(CC1)NC(=O)OCC1=CC=CC=C1)C | C16H24N4O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 665 mg | [Pd] | Pd
product | 1-(2-Dimethylaminoacetyl)piperazine | 2.97 mmol, 508 mg, 95.0% | CN(CC(=O)N1CCNCC1)C | C8H17N3O
